US07345056B2
To a solution of 9-(4-chloro-benzenesulfonyl)-2-dimethylaminomethylene-4-methyl-9-aza-bicyclo[3.3.1]nonan-3-one crude mixture in glacial acetic acid (1 mL) followed by hydrazine monohydrate (0.5 mL). The reaction mixture was stirred at 100° C. for 1 h after which the solution was cooled to room temperature and quenched by the addition of a saturated aqueous NaHCO3 solution (until pH>7). The resulting solution was extracted with EtOAc (3×20 mL), the organic extracts were combined, dried (Na2SO4), filtered, concentrated and purified by silica gel column chromatography and preparative HPLC to give 12-(4-chloro-benzenesulfonyl)-7-methyl-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene as a white solid. Retention time (min)=1.72, Method [1], MS (ESI) 352.0 (M+H); 1H-NMR (300 MHz, CDCl3) δ 7.81-7.78 (m, 2H), 7.47-7.43 (m, 2H), 7.27 (s, 1H), 5.2 (b s, 1H), 4.09 (d, J=4.94 Hz, 1H), 2.89 (q, J=7.14 Hz, 1H), 1.82-1.60 (m, 3H), 1.42-1.34 (m, 3H), 1.19 (d, J=7.14 Hz, 3H); 13C-NMR (75 MHz, CDCl3) δ 149.9, 140.7, 139.0, 129.6, 128.7, 126.4, 115.6, 55.83, 48.6, 34.1, 31.1, 30.9, 21.8, 15.6 ppm.

reactant | 9-(4-chloro-benzenesulfonyl)-2-dimethylaminomethylene-4-methyl-9-aza-bicyclo[3.3.1]nonan-3-one | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C(C(C(C1CCC2)C)=O)=CN(C)C | C18H23ClN2O3S
reactant | hydrazine monohydrate | 0.5 mL | O.NN
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
product | 12-(4-chloro-benzenesulfonyl)-7-methyl-4,5,12-triaza-tricyclo[6.3.1.02,6]dodeca-2(6),3-diene | ClC1=CC=C(C=C1)S(=O)(=O)N1C2C=3C=NNC3C(C1CCC2)C | C16H18ClN3O2S
